US06057326
(S)-4-[α-(3-bromobenzoyloxymethyl)benzylamino]-6,7-dimethoxyquinazoline
To a solution of (S)-4-[α-(hydroxymethyl)benzylamino]-6,7-dimethoxyquinazoline (49 mg, 0.15 mmol) in pyridine (2 ml) was added dropwise at 0-5° C. 3-bromobenzoylchloride (33 mg, 0.15 mmol). After 6 h stirring at room temperature the reaction mixture was poured into iced water and extracted with dichloromethane. The organic layer was dried and evaporated to dryness. The residue was purified by flash chromatography on silica gel using as eluant dichloromethane/methanol 95:5 to give pure title compound as a white solid in 71% yield (54 mg).

reactant | (S)-4-[α-(hydroxymethyl)benzylamino]-6,7-dimethoxyquinazoline | 0.15 mmol, 49 mg | OC[C@H](C1=CC=CC=C1)NC1=NC=NC2=CC(=C(C=C12)OC)OC | C18H19N3O3
reactant | 3-bromobenzoylchloride | 0.15 mmol, 33 mg | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | water | O | H2O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | (S)-4-[α-(3-bromobenzoyloxymethyl)benzylamino]-6,7-dimethoxyquinazoline | 71% yield | BrC=1C=C(C(=O)OC[C@H](C2=CC=CC=C2)NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=CC1 | C25H22BrN3O4
